US06583135B2
Preparation of 3-Benzyl-9-phenoxy-1,2,3,4,5,6-hexahydro-azepino[4,5-b]indole
To a solution of 3-benzoyl-9-phenoxy-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole (0.10 g, 0.26 mmol) in tetrahydrofuran (5.0 mL) was added lithium aluminum hydride (0.10 g, 2.61 mmol). The resulted mixture was stirred at room temperature for 16 h. Water (0.10 mL), 15% sodium hydroxide solution (0.10 mL) and water (0.30 mL) were added sequentially. The mixture was filtered through a pad of Celite and the filtrate was concentrated in vacuo to dryness. The residue was subjected to column chromatography (silica gel, 50% EtOAc/hexane with 1% Et3N) to afford 0.093 g (99%) of colorless solid as the desired product. 1H NMR (300 MHz, CDCl3) δ 7.77, 7.21-7.44, 7.12, 6.95-7.04, 6.87, 3.00-2.91, 2.89-2.83.

reactant | 3-benzoyl-9-phenoxy-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole | 0.26 mmol, 0.10 g | C(C1=CC=CC=C1)(=O)N1CCC=2NC=3C=CC(=CC3C2CC1)OC1=CC=CC=C1 | C25H22N2O2
reactant | lithium aluminum hydride | 2.61 mmol, 0.10 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Water | 0.10 mL | O | H2O
reactant | sodium hydroxide | 0.10 mL | [OH-].[Na+]
reactant | water | 0.30 mL | O | H2O
solvent | tetrahydrofuran | 5.0 mL | O1CCCC1 | C4H8O
product | 3-Benzyl-9-phenoxy-1,2,3,4,5,6-hexahydro-azepino[4,5-b]indole | 0.093 g, 99% | C(C1=CC=CC=C1)N1CCC=2NC=3C=CC(=CC3C2CC1)OC1=CC=CC=C1 | C25H24N2O
